US04661510
Propargyl 2-(benzoylamino)-3-(imidazol-4-yl)propionate
5 gm of 2-(benzoylamino)-3-(imidazol-4-yl)propanoic acid in 100 ml of benzene, 5 ml of propargyl alcohol, and 5.22 gm of p-toluenesulfonic acid.H2O was heated at reflux with the azeotropic removal of water by means of a Dean-Stark apparatus. After approximately 2 days of refluxing and the stoichiometric amount of water was produced, the reaction mixture was cooled, and a precipitate, the p-toluenesulfonic acid salt of the title compound was filtered out. The salt was taken up in water, the pH adjusted to 7.5 with 1.0N NaOH in a two phase system of water-dichloromethane. The layers were separated and the aqueous portion extracted 3×30 ml of CH2Cl2. The organic fractions were pooled, dried over anhydrous magnesium sulfate, and concentrated in vacuo to give the title compound.

reactant | 2-(benzoylamino)-3-(imidazol-4-yl)propanoic acid | 5 gm | C(C1=CC=CC=C1)(=O)NC(C(=O)O)CC=1N=CNC1 | C13H13N3O3
reactant | p-toluenesulfonic acid | 5.22 gm | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | H2O | O | H2O
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | propargyl alcohol | 5 ml | C(C#C)O | C3H4O
product | Propargyl 2-(benzoylamino)-3-(imidazol-4-yl)propionate | C(C1=CC=CC=C1)(=O)NC(C(=O)OCC#C)CC=1N=CNC1 | C16H15N3O3
